Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Adhesive Tape
 
Attending: ___.
 
Chief Complaint:
GI Bleed
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with HCV cirrhosis s/p liver transplant 
complicated by ascites/ encephalopathy/ varices (3 cords Grade I 
varices)/ portal hypertensive gastropathy/chronic portal and 
splenic venous thrombosis, recently discharged from ___ with a 
GI bleed who presented on ___ with an HCT of 21.7, dizziness 
and hypotension. 
.
Pt has had a complicated history of recurrent GI bleeding with 
no clear source being found after an extensive work up that 
included:  
___: GI Bleeding study  
___: Sigmoidoscopy  
___: GI Bleeding study  
___: Colonoscopy and EGD  
___: Angiogram, no intervention  
___: Exploratory laparotomy, intraoperative endoscopy.  
. 
Pt was most recently admitted to ___ from ___ to ___ with 
continued GI bleeding. Tagged RBC scan was negative. The result 
of that admission was to manage his chronic GI bleeding as an 
outpatient. He was undergoing twice weekly HCT checks, his HCT 
was 30.9 four days prior to admission, and 21.9 on ___. He also 
had some associated lightheadedness at home. Over the weekend he 
had been having ___ melanotic stools per day, that were streaked 
with bright red blood. He was having his chronic abdominal pain, 
but no changes from his baseline. After getting his HCT checked, 
he was referred to the ER for further evaluation.  
.  
In the ED, initial BP-82/52. Patient was given 3L NS, 2 units of 
PRBC's. Given his hypotension he was admitted to the ICU for 
further monitoring.  
.  
Follow up HCT in the ICU 20.7 after 2u PRBCs, so 2 additional 
units were given. Tagged red cell scan was negative. AM HCT was 
27.8. He had 1 episode of melena on the morning of transfer. On 
transfer patient is resting comfortably. He's quite worried 
about where he might be bleeding from, but has no other 
complaints.   
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills. Denies headache. Denies cough, 
shortness of breath. Denies chest pain. Denies nausea, vomiting. 
Denies dysuria, frequency, or urgency.  
 
Past Medical History:
PMH:  
- Hepatitis C s/p liver Tx ___, s/p revision ___ 
complicated with rejection and steroid use since ___ to 
present; also complicated with Hep C recurrence and restarted 
peg interferon ___. Hep C possibly contracted from tattoo 
___  
- Chronic pancreatitis  
- History of peripancreatic abscess ___
- Diabetes: steroid induced, managed at ___, recent 
HBA1C 5.1%  
- ITP  
- SVT last episode approximately ___, medically managed at this 
time (atenolol) 
- Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___
- Depression/anxiety   
- Primary hypogonadism  
- Thoracic compression fractures (___)  
- H/o post hypoxic encephalopathy (___)  
- Neutropenia and infections including c. diff x3, streptococcal 
septicemia, anal fistula s/p ___    
- Left sided hydronephrosis due to obstruction from 
splenomegaly, s/p left ureteral stent placement (___)      
- Chronic pain especially rectal pain 
.  
PSH:
- Cholecystectomy
- Appendectomy 
- Splenectomy, distal pancreatectomy, c/w fistula, s/p stent and 

then removal ___ 
- Bilateral inguinal hernia s/p hernia repair which has failed  
- Umbilical hernia repair (___)
- Tonsillectomy 
 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2.  
 
Physical Exam:
ON ADMISSION:
Vitals: Afebrile BP: 102/58 P: 56 R: 18 O2: 99% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
  

 
Pertinent Results:
ADMISSION LABS:
___ 09:50AM BLOOD WBC-7.4 RBC-2.06*# Hgb-7.1*# Hct-21.9*# 
MCV-106* MCH-34.7* MCHC-32.6 RDW-23.0* Plt ___
___ 09:50AM BLOOD Neuts-66 Bands-0 ___ Monos-7 Eos-8* 
Baso-0 ___ Metas-1* Myelos-0
___ 09:50AM BLOOD Plt Smr-NORMAL Plt ___
___ 09:50AM BLOOD UreaN-40* Creat-1.1 Na-139 K-5.4* Cl-111* 
HCO3-19* AnGap-14
___ 09:50AM BLOOD ALT-26 AST-41* AlkPhos-211* TotBili-1.1
___ 09:50AM BLOOD Albumin-2.6* Calcium-8.5 Phos-3.9 Mg-2.3
___ 09:50AM BLOOD tacroFK-3.1*
.
DISCHARGE LABS:
.
MICRO: none
.
STUDIES:
Bleeding study (___): No evidence for lower GI bleed.
.
Portable CXR (___): Small bilateral pleural effusions with 
associated atelectasis.
.
EGD:
.
Colonoscopy: 
 
Brief Hospital Course:
___ y/o M with a h/o HCV cirrhosis, s/p liver transplant 
complicated by recurrence of HCV cirrhosis and ascites/ 
encephalopathy/ varices (3 cords Grade I varices)/ portal 
hypertensive gastropathy/chronic portal and splenic venous 
thrombosis, who presents with recurrence of GI bleed.  
.  
# GI bleed: Pt has a h/o GI bleeds of unknown etiology despite 
numerous studies including EGDs, colonoscopies, bleeding 
studies, and an intraoperative endoscopy. He was recently 
admitted from ___, w/o identifying the bleeding source. He 
was discharged with a plan to have twice weekly outpatient CBCs 
with transfusions as needed. However, he continued to have 
numerous large bloody stools and a large drop in Hct, so he was 
again admitted to the hospital. A repeat tagged RBC scan failed 
to show the source of the bleed. He was then challenged with 
heparin, however he did not bleed and so he was reversed with 
protamine. He then had a large melanotic stool, so he was taken 
to angio and challenged with intra-artrial heparin to the SMA 
and ___. Again, no source of bleeding was found. Colonoscopy and 
EGD were performed with no bleeding source identified. He was 
started on Amicar. He remained hemodynamically stable and was 
transferred to the floor. On the floor, patient continued to 
have intermittent episodes of bleeding requiring transfusions. 
He underwent red blood cell scan which showed possible delayed 
bleed around hepatic flexure. He subsequently underwent 
colonoscopy which was essentially negative, showing one non 
bleeding diverticulum. He had a brief trial of octreotide, which 
was d/c-ed after one day secondary to cramping. He was finally 
started on a trial of estrogen therapy. Underwent a capsule 
study which was also negative. As of ___ he had required 17 
units of pRBCs during this hospitalization.  During this time he 
was also treated for a complicated UTI with a course of cipro.  
Pain and palliative care were consulted.  Family meeting was 
held with patient's three sisters, pain and palliative care, 
outpatient hepatologist, attending on service, housestaff and 
social work.  Mr. ___ expressed that he nolonger wished to be 
intubated or recussitated and DNR/DNI status was initiated.  On 
___, patient developed shortness of breath, chest discomfort 
and continued to complain of abdominal discomfort.  Throughout 
the day, multiple discussions were held in the presence of the 
family and the patient.  Mr. ___, stated that he nolonger 
wanted any blood products.  He also complained of discomfort 
with taking in of medications.  Comfort measures was initiated 
and patient was placed on a morphine drip titrated to comfort.  
Family support was provided.  Mr. ___ passed on ___, with 
family present at his bedside.

 
Medications on Admission:
ALENDRONATE - 70 mg weekly  
ATENOLOL - 50 mg once a day  
ERGOCALCIFEROL (VITAMIN D2) - 50,000 unit weekly  
LAMIVUDINE [EPIVIR HBV] - 100 mg once a day  
LATANOPROST [XALATAN] - 0.005 % Drops - 1 Drops(s) in each eye 
HS  
LIPASE-PROTEASE-AMYLASE [PANCREASE] - 20,000 unit-4,500  
unit-25,000 unit Capsule, Delayed Release(E.C.) - 2 Capsule(s) 
by  
mouth three times a day with meals  
OMEPRAZOLE - 40 mg twice a day  
SERTRALINE - 50 mg - 1.5 Tablet(s) by mouth once a day  
SULFAMETHOXAZOLE-TRIMETHOPRIM [BACTRIM DS] - 800 mg-160 mg 
Tablet  
- 1 Tablet(s) by mouth twice a day  
TACROLIMUS - 0.5 mg Capsule - 1 Capsule(s) by mouth twice a day  

TRAZODONE - 50 mg HS  
URSODIOL - 300 mg twice a day  
CALCIUM CITRATE-VITAMIN D3 - 315 mg-200 - 1 Tablet twice a day  
FLUDROCORTISONE 0.1mg daily  
FOLIC ACID 1mg daily  
LACTULOSE 30mL daily  
RIFAXIMIN 400mg TID  
LASIX 20mg daily  
SPIRONOLACTONE 25mg daily  
MULTIVITAMIN 1 tablet daily  
THIAMINE 100mg daily  
 
Discharge Medications:
Pt expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Pt expired
 
Discharge Condition:
Pt expired
 
Discharge Instructions:
Pt expired
 
Followup Instructions:
___